US05478840
2-Hydroxymethyl-10,11-dihydro-5H-dibenz[b,f]azepine (Compound 31-2a)
5-Benzyl-2-formyl-10,11-dihydro-5H-dibenz[b,f]azepine (3.29 g) was dissolved in 200 ml of ethanol, and 0.5 g of sodium borohydride was added to the solution, followed by stirring at room temperature for 30 minutes. The solvent was distilled off under reduced pressure, and the residue was diluted with dichloromethane. The mixture was washed with 1N aqueous hydrochloric acid and a saturated aqueous solution of sodium chloride, and dried over anhydrous magnesium sulfate. After the solvent was distilled off under reduced pressure, the residue was dissolved in 300 ml of ethanol. To the solution was added 300 mg of 10% palladium carbon and the mixture was stirred in a stream of hydrogen for 4 days. The catalyst was filtered off, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography [eluent: hexane/ethyl acetate (2/1)] to give 1.0 g (42%) of the product.

reactant | 5-Benzyl-2-formyl-10,11-dihydro-5H-dibenz[b,f]azepine | 3.29 g | C(C1=CC=CC=C1)N1C2=C(CCC3=C1C=CC=C3)C=C(C=C2)C=O | C22H19NO
reactant | sodium borohydride | 0.5 g | [BH4-].[Na+]
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 2-Hydroxymethyl-10,11-dihydro-5H-dibenz[b,f]azepine | 1.0 g, 42% | OCC1=CC2=C(NC3=C(CC2)C=CC=C3)C=C1 | C15H15NO
